US05187156
To a solution of HCl.H-Thr-D-Trp(CHO)-Phe-NMeBzl (2.29 g) in methylene chloride (30 ml), were added triethylamine (747 mg) and Ac2O (377 mg) at -20° C. The reaction mixture was stirred for 45 minutes at the same temperature, and washed successively with water, diluted sodium hydrogencarbonate solution, water, 0.5N hydrochloric acid, and sodium chloride solution and dried over magnesium sulfate. After concentration, the residue was dissolved in 65% aqueous ethanol (45 ml) under heating, and the solution was left standing overnight at room temperature. The resulting needles were filtered, washed with 65% aqueous ethanol, and dried to give Ac-Thr-D-Trp(CHO)-Phe-NMeBzl (1.92 g).

reactant | HCl | Cl | ClH
reactant | H-Thr-D-Trp(CHO)-Phe-NMeBzl | 2.29 g | N[C@@H]([C@H](O)C)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(C)CC1=CC=CC=C1 | C33H37N5O5
reactant | triethylamine | 747 mg | C(C)N(CC)CC | C6H15N
reactant | Ac2O | 377 mg | CC(=O)OC(=O)C | C4H6O3
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | Ac-Thr-D-Trp(CHO)-Phe-NMeBzl | 1.92 g | N([C@@H]([C@H](O)C)C(=O)N[C@H](CC1=CN(C2=CC=CC=C12)C=O)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N(C)CC1=CC=CC=C1)C(=O)C | C35H39N5O6
